US08604015B2
A mixture of quinuclidine-4-carboxylic acid hydrochloride (100 mg, 0.52 mmol) and thionyl chloride (500 μl, 6.85 mmol) was refluxed for 2 hours. The reaction was cooled to room temperature, and the solvent was accurately removed. The residue was suspended in dry DCM and treated with (3-fluorophenyl)methanol (65.8 mg, 0.52 mmol). The reaction was stirred at room temperature for 24 hours. The solvent was evaporated, and the residue was dissolved in water (1 ml), basified with NaHCO3 and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and evaporated to obtain 3-fluorobenzyl quinuclidine-4-carboxylate (41 mg, 29.8% yield), which was used in the next step without any further purification.

reactant | quinuclidine-4-carboxylic acid hydrochloride | 0.52 mmol, 100 mg | Cl.N12CCC(CC1)(CC2)C(=O)O
reactant | thionyl chloride | 6.85 mmol, 500 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (3-fluorophenyl)methanol | 0.52 mmol, 65.8 mg | FC=1C=C(C=CC1)CO | C7H7FO
product | 3-fluorobenzyl quinuclidine-4-carboxylate | 41 mg, 29.8% yield | N12CCC(CC1)(CC2)C(=O)OCC2=CC(=CC=C2)F | C15H18FNO2
